US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1-methyl-1H-pyrazole-5-carboxamide
To a solution of 1-methyl-1H-pyrazole-5-carboxylic acid (106 mg, 0.84 mmol) in tetrahydrofuran (5 mL) were added N,N-dimethylformamide (1 drop), oxalyl chloride (91 μL, 1.0 mmol), and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, and the obtained 1-methyl-1H-pyrazole-5-carbonylchloride was dissolved in N,N-dimethylacetamide (2 mL). This was added to a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (210 mg, 0.65 mmol) in N,N-dimethylacetamide (5 mL), and the mixture was stirred at room temperature for 30 min. To the mixture were added ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogencarbonate solution, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×4). Combined organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→90/10) to give the title compound (230 mg, 83%) as a white solid.

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 0.84 mmol, 106 mg | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | oxalyl chloride | 1.0 mmol, 91 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 210 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1-methyl-1H-pyrazole-5-carboxamide | 230 mg, 83% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC=NN2C)C)C1 | C22H21N7O3
